US05990105
0.25 g (0.0014 mol) of 3,5-dimethylthiophenol potassium salt were dissolved in 5 ml of 1-methyl-2-pyrrolidone, treated with 0.19 g (0.00134 mol) of 1-fluoro-4-nitrobenzene and a spatula tip of Cu powder and stirred at 160° C. for about 5 hrs. Thereafter, the solvent was removed by distillation, the residue was partitioned in water/ethyl acetate and the organic phase was washed with sat. sodium chloride solution and dried over MgSO4. After filtration and removal of the solvent the residue was chromatographed on silica gel with ethyl acetate/hexane 1:15. There was obtained 0.22 g (62%) of 1,3-dimethyl-5-(4-nitrophenylsulphanyl)-benzene as a viscous, yellow oil. MS (EI): me/e=259 (C14H13NO2S+).

reactant | 3,5-dimethylthiophenol potassium salt | 0.0014 mol, 0.25 g | [K].CC=1C=C(C=C(C1)C)S
reactant | 1-fluoro-4-nitrobenzene | 0.00134 mol, 0.19 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | 1-methyl-2-pyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | 1,3-dimethyl-5-(4-nitrophenylsulphanyl)-benzene | 0.22 g, 62% | CC1=CC(=CC(=C1)SC1=CC=C(C=C1)[N+](=O)[O-])C | C14H13NO2S
